### PR TITLE
feat: make projective space

### PR DESCRIPTION
**Pull request by kckennylau**
# Projective space
## Main definitions
- `AlgebraicGeometry.ProjectiveSpace`: `ℙ(n; S)` is the projective `n`-space over `S`.
- `AlgebraicGeometry.ProjectiveSpace.SpecIso`: `ℙ(n; Spec R) ≅ Proj R[n]`
- `AlgebraicGeometry.ProjectiveSpace.openCover`: the canonical cover of `ℙ(n; S)` by `n` affine
  charts. The `i`ᵗʰ chart is `𝔸({k // k ≠ i}; S) ⟶ ℙ(n; S)`, and represents the open set where
  the function `Xᵢ` does not vanish.

----

(This is not perfect, but I'm happy for this to be merged first, and then I'll take a short break and start cleaning up stuffs)

Note: the main file starts as L890; the things before that are things to be moved to other files (I'll split them into PR's into mathlib)

### CODE REVIEW

File: FLT/Mathlib/AlgebraicGeometry/ProjectiveSpace.lean [hunk 1]
```diff
@@ -0,0 +1,1329 @@
...
+import Mathlib.RingTheory.MvPolynomial.Homogeneous
+import Mathlib.RingTheory.TensorProduct.Basic
+
+/-!
+# Projective space
+
+## Main definitions
+
+- `AlgebraicGeometry.ProjectiveSpace`: `ℙ(n; S)` is the projective `n`-space over `S`.
+- `AlgebraicGeometry.ProjectiveSpace.SpecIso`: `ℙ(n; Spec R) ≅ Proj R[n]`
```
Comment (kbuzzard) [inline FLT/Mathlib/AlgebraicGeometry/ProjectiveSpace.lean:18]: Whatever the notation `R[n]` is supposed to mean, it's very hard to guess that it means something like "multivariable polynomials in n+1 variables"

File: FLT/Mathlib/AlgebraicGeometry/ProjectiveSpace.lean [hunk 2]
```diff
@@ -0,0 +1,1329 @@
...
+
+section MOVE
+
+namespace CategoryTheory
+
+theorem hom_comp_apply {C : Type u} [Category.{v, u} C] {FC : C → C → Type*}
+      {CC : C → Type w} [(X Y : C) → FunLike (FC X Y) (CC X) (CC Y)] [ConcreteCategory C FC]
+      {X Y Z : C} (f : X ⟶ Y) (g : Y ⟶ Z) (x : CC X) :
+    (f ≫ g) x = g (f x) :=
+  congr_fun (hom_comp f g) x
```
Comment (kbuzzard) [inline FLT/Mathlib/AlgebraicGeometry/ProjectiveSpace.lean:35]: This is `ConcreteCategory.comp_apply f g x`

File: FLT/Mathlib/AlgebraicGeometry/ProjectiveSpace.lean [hunk 3]
```diff
@@ -0,0 +1,1329 @@
...
+    IsLocalization.Away (RingHomClass.toRingHom (algEquivAway R i)
+        (expand R i (dehomogenise i (X j))))
+      (away₂ R i j) :=
+  isLocalization_away₂ ..
+
+instance isLocalization_away_contract_expand {σ : Type*} (R : Type*) [CommRing R] (i : σ) (p) :
+    IsLocalization.Away ((contract R i) (expand R i p)) (Localization.Away p) := by
+  rw [contract_expand]; infer_instance
+
+/-- The isomorphism between the natural `R[n](1/XᵢXⱼ)₀` and our model `R[{Xₖ // k ≠ i}, 1/Xⱼ]`. -/
```
Comment (kbuzzard) [inline FLT/Mathlib/AlgebraicGeometry/ProjectiveSpace.lean:440]:
```suggestion
/-- The ring isomorphism between the natural `R[n](1/XᵢXⱼ)₀` and our model `R[{Xₖ // k ≠ i}, 1/Xⱼ]`. 
See also `MvPolynomial.algEquivAwayMul` for the `R`-algebra isomorphism. -/
```

File: FLT/Mathlib/AlgebraicGeometry/ProjectiveSpace.lean [hunk 4]
```diff
@@ -0,0 +1,1329 @@
...
+@[simps! apply] noncomputable def away₂CommAlgEquiv {σ : Type*} (R : Type*) [CommRing R] (i j : σ) :
+    away₂ R i j ≃ₐ[MvPolynomial { k // k ≠ j } R] away₂ R j i :=
+  .ofRingEquiv (f := away₂Comm R i j)
+    fun x ↦ AlgHom.congr_fun (away₂Comm_comp_away₂InrAlgHom R i j) x
+
+instance {σ : Type*} (R : Type*) [CommRing R] (i j : σ) :
+    IsLocalization.Away (dehomogenise j (X (R:=R) i)) (away₂ R i j) :=
+  IsLocalization.isLocalization_of_algEquiv _ (away₂CommAlgEquiv R i j).symm
+
+end MvPolynomial
```
Comment (kbuzzard) [inline FLT/Mathlib/AlgebraicGeometry/ProjectiveSpace.lean:652]: Whilst this is clearly a tour de force, I feel like all of this stuff could be avoided if you instead make P(vector space) and cover it by affines indexed by elements phi in the dual space, where the affine parametrises lines which are not in the kernel of phi, and then just apply it to a vector space with a basis if you want usual P^n.

File: FLT/Mathlib/AlgebraicGeometry/ProjectiveSpace.lean [hunk 5]
```diff
@@ -0,0 +1,1329 @@
...
+
+/-- `Spec R ⨯ Spec S ≅ Spec (R ⊗[ℤ] S)`, using pullback to replace product. -/
+noncomputable def pullbackTerminalSpecIso (R S : Type u) [CommRing R] [CommRing S] :
+    pullback (terminal.from (Spec (.of R))) (terminal.from (Spec (.of S))) ≅
+      Spec (.of (R ⊗[ℤ] S)) :=
+  pullback.iso' (Iso.refl _) (Iso.refl _) (specULiftZIsTerminal.uniqueUpToIso terminalIsTerminal)
+      (terminal.hom_ext ..) (terminal.hom_ext ..) ≪≫
+    pullbackSpecIso (ULift.{u} ℤ) R S ≪≫
+    Scheme.Spec.mapIso (RingEquiv.toCommRingCatIso <| RingEquivClass.toRingEquiv <|
+        Algebra.TensorProduct.equivOfCompatibleSMul ..).op -/
```
Comment (kbuzzard) [inline FLT/Mathlib/AlgebraicGeometry/ProjectiveSpace.lean:846]: Do you want this or should we delete it?

File: FLT/Mathlib/AlgebraicGeometry/ProjectiveSpace.lean [hunk 6]
```diff
@@ -0,0 +1,1329 @@
...
+lemma openCover_comp_SpecIso_hom : (openCover n (Spec (.of R))).map i ≫ (SpecIso n _).hom =
+    (AffineSpace.SpecIso _ _).hom ≫ (Proj.openCoverMvPolynomial n R).map i := by
+  rw [SpecIso, Scheme.Cover.ι_glueMorphisms]; rfl
+
+end affine
+
+/- GOALS
+* Subspace cut out by a polynomial
+* Locally (i.e. at stalk) points given by [x₀ : ... : xₙ]
+-/
```
Comment (kbuzzard) [inline FLT/Mathlib/AlgebraicGeometry/ProjectiveSpace.lean:1325]: If these are TODO then can you put them in the module docstrincg?

**Review by kbuzzard — APPROVED** [review]
This is fine for FLT but for mathlib I suspect we want the (correct, not Hartshorne) concept of a projective morphism, which is explained in https://stacks.math.columbia.edu/tag/01W7 and which needs a slightly more general construction.

**Comment by kbuzzard** [comment]
awaiting-author

**Comment by kbuzzard** [comment]
Closed due to inactivity.
